US20010027196A1
To a stirred suspension of 200 mg (0.66 mmol) 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine in 5 ml dioxane was added 0.16 ml (1.46 mmol) benzylamine and the mixture heated at 100° C. for 2 hour. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate) followed by trituration in ether/hexane afforded 162 mg (71%) N4-benzyl-5-bromo-6-furan-2-yl-pyrimidine-2,4-diamine as a white crystalline solid. EI-MS m/e (%): 346 (M{81Br}+, 50), 344 (M{79Br} +51), 265 (46), 106 (100), 91 (61).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine | 0.66 mmol, 200 mg | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | benzylamine | 1.46 mmol, 0.16 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N4-benzyl-5-bromo-6-furan-2-yl-pyrimidine-2,4-diamine | 162 mg, 71% | C(C1=CC=CC=C1)NC1=NC(=NC(=C1Br)C=1OC=CC1)N | C15H13BrN4O
